US05037825
2 g of Magnesium shavings were covered with 20 ml of tetrahydrofuran. A solution of 20.8 g of 7-bromo-1,2,3,4-tetrahydro-1,4,4-trimethylquinoline in 80 ml of tetrahydrofuran was added dropwise thereto at 55°-60° C. using an ultrasonics bath. Thereafter, the mixture was boiled at reflux for an additional 2 hours, cooled to 0° C. and a solution of 10 g of acetaldehyde in 80 ml of tetrahydrofuran was added dropwise thereto. After stirring at room temperature for 1 hour, the mixture was poured on to ice/saturated ammonium chloride solution and extracted with ether. The oil obtained after drying and evaporation of the solvent was filtered over a silica gel column (eluting agent hexane/ethyl acetate 9:1) and gave 14.5 g of 1,2,3,4-tetrahydro-α,1,4,4-tetramethyl-7-quinolinemethanol as a yellowish oil.

reactant | Magnesium | 2 g | [Mg] | Mg
reactant | 7-bromo-1,2,3,4-tetrahydro-1,4,4-trimethylquinoline | 20.8 g | BrC1=CC=C2C(CCN(C2=C1)C)(C)C | C12H16BrN
reactant | acetaldehyde | 10 g | C(C)=O | C2H4O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1,2,3,4-tetrahydro-α,1,4,4-tetramethyl-7-quinolinemethanol | 14.5 g | CC(O)C1=CC=C2C(CCN(C2=C1)C)(C)C | C14H21NO
